US08283383B2
5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (0.10 g, 2.49 mmol) and triethylamine (6.75 g, 7.47 mmol) were added to dichloromethane (40 mL) and stirred under nitrogen atmosphere. Isobutyryl chloride (0.318 g, 2.98 mmol) was added slowly, and the reaction mixture was stirred for 2.5 hours at room temperature. The mixture was diluted with water and 1N aqueous HCl, and the organic layer was separated, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 0.786 g of 5-isobutyrylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester.

reactant | 5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 2.49 mmol, 0.10 g | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
reactant | triethylamine | 7.47 mmol, 6.75 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
reactant | Isobutyryl chloride | 2.98 mmol, 0.318 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 5-isobutyrylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.786 g | COC(=O)C=1C=C(C=C(C1)NC(C(C)C)=O)C1=CC=C(C=C1)C | C19H21NO3
